US08211904B2
Step 4: 2-(chloromethyl)-1-fluoro-4-{[(1R)-1-methylpropyl]oxy}benzene
To a solution of (2-fluoro-5-{[(1R)-1-methylpropyl]oxy}phenyl)methanol (0.091 g, 0.459 mmol) in carbon tetrachloride (4.59 ml) was added triphenylphosphine resin (0.241 g, 0.918 mmol). The reaction was heated to 78° C. overnight in a pressure tube with minimal stirring. The reaction mixture was filtered through a fritted funnel and washed with carbon tetrachloride. The filtrate was concentrated to give the desired product.

reactant | (2-fluoro-5-{[(1R)-1-methylpropyl]oxy}phenyl)methanol | 0.459 mmol, 0.091 g | FC1=C(C=C(C=C1)O[C@@H](CC)C)CO | C11H15FO2
reactant | triphenylphosphine resin | 0.918 mmol, 0.241 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | carbon tetrachloride | 4.59 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(chloromethyl)-1-fluoro-4-{[(1R)-1-methylpropyl]oxy}benzene | ClCC1=C(C=CC(=C1)O[C@@H](CC)C)F | C11H14ClFO
